US07863293B2
Using General Procedure B: Reaction of 4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester and 3-(1-Methyl-1-phenyl-ethyl)-pyridine-2-carbaldehyde with NaBH(OAc)3 in CH2Cl2 gave 4-{(3,5-Dimethyl-pyridin-2-ylmethyl)-[3-(1-methyl-1-phenyl-ethyl)-pyridin-2-ylmethyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester as a white solid. Deprotection with TFA using General Procedure F gave (3,5-Dimethyl-pyridin-2-ylmethyl)-[3-(1-methyl-1-phenyl-ethyl)-pyridin-2-ylmethyl]-piperidin-4-yl-amine as a white solid.

reactant | 4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NC=C(C=C1C)C | C18H29N3O2
reactant | 3-(1-Methyl-1-phenyl-ethyl)-pyridine-2-carbaldehyde | CC(C)(C1=CC=CC=C1)C=1C(=NC=CC1)C=O | C15H15NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-{(3,5-Dimethyl-pyridin-2-ylmethyl)-[3-(1-methyl-1-phenyl-ethyl)-pyridin-2-ylmethyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=NC=CC=C1C(C)(C1=CC=CC=C1)C)CC1=NC=C(C=C1C)C | C33H44N4O2
